US08211904B2
Step 3: 1-(chloromethyl)-3-(1-cyclopropylethoxy)benzene
[3-(1-cyclopropylethoxy)phenyl]methanol (0.418 g, 2.17 mmol) in carbon tetrachloride (8.70 ml) was added triphenylphosphine resin (1.14 g, 4.35 mmol). The reaction was refluxed overnight with minimal stirring at 78° C. The next day the mixture was filtered through a fritted funnel and washed with dichloromethane. The filtrate was concentrated and no purification was necessary.

reactant | [3-(1-cyclopropylethoxy)phenyl]methanol | 2.17 mmol, 0.418 g | C1(CC1)C(C)OC=1C=C(C=CC1)CO | C12H16O2
reactant | triphenylphosphine resin | 4.35 mmol, 1.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | carbon tetrachloride | 8.70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(chloromethyl)-3-(1-cyclopropylethoxy)benzene | ClCC1=CC(=CC=C1)OC(C)C1CC1 | C12H15ClO
